US04496571
Ethyl chloroformate (0.14 ml.) was added to a stirred mixture of 3-(imidazol-4-yl)propionic acid (0.3 g.) and triethylamine (2 ml.) in DMF (5 ml.) at 0° and the mixture stirred at 0° for 0.5 hours. 4-[2-(2,2,2-Trifluoroethyl)guanidino]-2-(5-aminopentyl)pyrimidine (0.3 g.) in DMF (2 ml.) was added to the mixture and stirring was continued at room temperature for 16 hours. The mixture was evaporated and the residue partitioned between EtOAc and 2 N aqueous HCl. The acid layer was basified with 11 N aqueous NaOH, extracted with EtOAc, dried (MgSO4) and evaporated to dryness. The residual gum was dissolved in EtOAc and treated with excess of a solution of maleic acid in EtOAc. The resulting solid was filtered and recrystallised from EtOH/EtOAc to give N-[5-(4-[2-(2,2,2-trifluoroethyl)guanidino]pyrimid-2-yl)pentyl]-3-(imidazol-4-yl)propionamide bis maleate hemihydrate (containing 0.5 EtOH of crystallisation) (0.2 g.), m.p. 136°-141° (decomp.).

reactant | Ethyl chloroformate | 0.14 ml | ClC(=O)OCC | C3H5ClO2
reactant | 3-(imidazol-4-yl)propionic acid | 0.3 g | N1C=NC(=C1)CCC(=O)O | C6H8N2O2
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
reactant | 4-[2-(2,2,2-Trifluoroethyl)guanidino]-2-(5-aminopentyl)pyrimidine | 0.3 g | FC(CN=C(NC1=NC(=NC=C1)CCCCCN)N)(F)F | C12H19F3N6
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
product | N-[5-(4-[2-(2,2,2-trifluoroethyl)guanidino]pyrimid-2-yl)pentyl]-3-(imidazol-4-yl)propionamide bis maleate hemihydrate | 0.2 g | O.C(\C=C/C(=O)O)(=O)O.C(\C=C/C(=O)O)(=O)O.FC(CN=C(NC1=NC(=NC=C1)CCCCCNC(CCC=1N=CNC1)=O)N)(F)F.FC(CN=C(NC1=NC(=NC=C1)CCCCCNC(CCC=1N=CNC1)=O)N)(F)F.C(\C=C/C(=O)O)(=O)O.C(\C=C/C(=O)O)(=O)O | InChI=1S/2C18H25F3N8O.4C4H4O4.H2O/c2*19-18(20,21)11-26-17(22)29-15-7-9-24-14(28-15)4-2-1-3-8-25-16(30)6-5-13-10-23-12-27-13;4*5-3(6)1-2-4(7)8;/h2*7,9-10,12H,1-6,8,11H2,(H,23,27)(H,25,30)(H3,22,24,26,28,29);4*1-2H,(H,5,6)(H,7,8);1H2/b;;4*2-1-;
